US05185351
(iii) methyl 4-bromomethyl-2-methoxymethoxybenzoate
To a solution of methyl 2-methoxymethoxy-4-methylbenzoate (9.41 g, 0.0448 mol) in 150 mL of carbon tetrachloride was added N-bromosuccinimide (7.97 g, 0.0448 mol) and benzoyl peroxide (0.45 g, 0.002 mol). The reaction mixture was refluxed for 18 hours. The solid was filtered and the filtrate was concentrated in vacuo to give 13.2 g of an oil. The product was purified by flash chromatography on silica gel eluting with 20% ethyl acetate in hexane to give 10.2 g (79%) of product as an oil.

reactant | methyl 2-methoxymethoxy-4-methylbenzoate | 0.0448 mol, 9.41 g | COCOC1=C(C(=O)OC)C=CC(=C1)C | C11H14O4
reactant | N-bromosuccinimide | 0.0448 mol, 7.97 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.002 mol, 0.45 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 4-bromomethyl-2-methoxymethoxybenzoate | 13.2 g | BrCC1=CC(=C(C(=O)OC)C=C1)OCOC | C11H13BrO4
